US07981903B2
A solution of 5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole (2.7 g, 11.71 mmol), 1-methyl-L-proline (Acros, 1.739 g, 13.46 mmol), HATU (5.79 g, 15.22 mmol), and DIPEA (6.13 mL, 35.1 mmol) in N,N-Dimethylformamide (DMF) (25 mL) was stirred at room temperature overnight. The next morning the solution had completely solidified. The solids were diluted with ethyl acetate/THF and washed with saturated sodium bicarbonate until all solids had dissolved. The organic layer was dried over sodium sulfate, filtered, concentrated onto celite, and purified by column chromatography to afford 5-(methyloxy)-1-(1-methyl-L-prolyl)-6-nitro-2,3-dihydro-1H-indole (3.4 g, 95% yield) as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.51 (s, 1 H), 7.35 (s, 1 H), 4.20-4.31 (m, 1 H), 4.10-4.20 (m, 1 H), 3.88 (s, 3 H), 3.56-3.70 (m, 1 H), 3.25 (t, J=8.43 Hz, 2 H), 3.15-3.21 (m, 1 H), 2.52-.64 (m, 1H), 2.45 (s, 3 H), 2.21-2.35 (m, 1 H), 1.75-1.93 (m, 3 H).

reactant | 5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole | 11.71 mmol, 2.7 g | COC=1C=C2CCNC2=CC1[N+](=O)[O-] | C9H10N2O3
reactant | 1-methyl-L-proline | 13.46 mmol, 1.739 g | CN1[C@H](C(=O)O)CCC1 | C6H11NO2
reactant | HATU | 15.22 mmol, 5.79 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 35.1 mmol, 6.13 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | N,N-Dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate THF | C(C)(=O)OCC.C1CCOC1
product | 5-(methyloxy)-1-(1-methyl-L-prolyl)-6-nitro-2,3-dihydro-1H-indole | 3.4 g, 95% yield | COC=1C=C2CCN(C2=CC1[N+](=O)[O-])C([C@H]1N(CCC1)C)=O | C15H19N3O4
